US08114868B2
To a solution of (R)-6-allyl-3-((S)-1-(4-bromophenyl)ethyl)-6-phenyl-1,3-oxazinan-2-one (5 g, 12.5 mmol) in tetrahydrofuran (60 mL) was added BH3 THF (25 mL, 1 mol/L, 25 mmol) at 0° C. under nitrogen atmosphere. The formed mixture was stirred for 2 h. The reaction was quenched with water. Then NaOH (3 mol/L, 10 mL) and H2O2 (15 mL) were added to the above mixture. When the reaction was over, the mixture was extracted with EtOAc. The combined organic phase was concentrated to give the crude product, which was purified by column chromatography to give (R)-3-((S)-1-(4-bromophenyl)ethyl)-6-(3-hydroxypropyl)-6-phenyl-1,3-oxazinan-2-one (2.5 g, 40%). 1H NMR: (400 MHz, CDCl3): δ=1.48 (t, 3H), 1.53 (m, 1H), 1.73 (m, 1H), 1.93-1.98 (m, 2H), 2.17-2.28 (m, 3H), 3.57 (t, 2H), 5.59 (m, 1H), 6.72 (m, 2H), 7.20 (m, 2H), 7.25-7.37 (m, 5H).

reactant | (R)-6-allyl-3-((S)-1-(4-bromophenyl)ethyl)-6-phenyl-1,3-oxazinan-2-one | 12.5 mmol, 5 g | C(C=C)[C@@]1(CCN(C(O1)=O)[C@@H](C)C1=CC=C(C=C1)Br)C1=CC=CC=C1 | C21H22BrNO2
reactant | tetrahydrofuran | 60 mL | O1CCCC1 | C4H8O
reactant | THF | 25 mmol, 1 mol/L, 25 mL | C1CCOC1 | C4H8O
product | (R)-3-((S)-1-(4-bromophenyl)ethyl)-6-(3-hydroxypropyl)-6-phenyl-1,3-oxazinan-2-one | 2.5 g, 40% | BrC1=CC=C(C=C1)[C@H](C)N1C(O[C@](CC1)(C1=CC=CC=C1)CCCO)=O | C21H24BrNO3
